US05753664
7-[4-(4-Hydroxybenzoyl)benzyl]-1,3-dimethylxanthine
A solution of 1,3-dimethylxanthine (742 mg), potassium carbonate (569 mg) and 4-(4-t-butyldimethylsiloxybenzoyl)benzyl bromide (2292 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:3) and recrystallized from chloroform-isopropyl ether to provide the title compound as colorless solid (1763 mg).

reactant | 1,3-dimethylxanthine | 742 mg | CN1C(=O)N(C=2N=CNC2C1=O)C | C7H8N4O2
reactant | potassium carbonate | 569 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-t-butyldimethylsiloxybenzoyl)benzyl bromide | 2292 mg | O([Si](C)(C)C(C)(C)C)C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C20H25BrO2Si
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Hydroxybenzoyl)benzyl]-1,3-dimethylxanthine | 1763 mg | OC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C21H18N4O4
